US05434188
To a room temperature solution of 1,7-dimethoxy-2-naphthalenecarboxylic acid (131 mg, 0.56 mmol) in 3 mL of THF is added N,N-carbonyldiimidazole (105 mg, 0.65 mmol). The solution is heated at reflux for 2.5 hours and cooled slightly. Aqueous NH4OH (1 mL) is added and the reaction mixture is stirred at room temperature for 1.5 hours, then poured into 1:1 hexane:ethyl acetate and washed with brine. The organic layer is dried over MgSO4, filtered, and concentrated in vacuo. The crude product is chromatographed on silica gel eluting with hexane:ethyl acetate (1:1) to provide 1,7-dimethoxy-2-naphthalenecarboxamide in 49% yield; mp 134°-136° C.

reactant | 1,7-dimethoxy-2-naphthalenecarboxylic acid | 0.56 mmol, 131 mg | COC1=C(C=CC2=CC=C(C=C12)OC)C(=O)O | C13H12O4
reactant | N,N-carbonyldiimidazole | 0.65 mmol, 105 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | NH4OH | 1 mL | [NH4+].[OH-]
reactant | hexane | CCCCCC | C6H14
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1,7-dimethoxy-2-naphthalenecarboxamide | 49% yield | COC1=C(C=CC2=CC=C(C=C12)OC)C(=O)N | C13H13NO3
